US06177405B1
The amino acids used in this synthesis were protected on the α-amino group with the Fmoc group. The side chains of the amino acids were protected with the following groups: threonine, t-butyl ether; lysine, Boc; and arginine, Mtr. The symmetric anhydride of the α-2,4-dimethoxybenzyl ester of Fmoc-aspartic acid (Fmoc-Asp-ODmb, McMurray, 1991) was prepared by dissolving 0.44 gm (0.87 mmole) of Fmoc-Asp-ODmb in 10 mL of CH2C12, adding 68 μL (0.44 mmole) of DIPCDI, stirring for 20 minutes, and evaporating the solvent. The symmetric anhydride was dissolved in 3 mL of DMF and added to the ALH-resin (1.0 gm, 0.30 mmole). The acylation was catalyzed by the addition of 36.6 mg of DMAP(0.3 mmole) in 0.5 mL of DMF. After one hour the resin was drained, and washed with DMF/CH2Cl2 (1:1). One half of the Fmoc- Asp-ODmb resin was used in the following synthesis. The remaining amino acids were added in 4 fold excess by dissolving in 3 mL of DMF/CH2Cl2(1:1), activating by adding equimolar amounts of DIPCDI and HOBt, and adding this solution to the resin. After one hour the reagents were washed from the resin, and the Fmoc group was removed by treating the peptidyl resin with 20% piperidine in DMF, 1×3 minutes plus 1×7 minutes. When the sequence was assembled the amino terminal Fmoc group was not removed. The resin was washed 5× with CH2Cl2 and then with 5×15 mL of CH2Cl2 containing 1% TFA for 5 minutes each. After washing with CH2Cl2 3× then DMF/CH2Cl2 (1:1) 3×, the Fmoc group was removed as above. DIPCDI, 94 μL, and 92 mg of HOBt in 3 mL of DMF were added to the resin. After 2 days the resin was drained, washed with DMF/CH2Cl2 (1:1), CH2Cl2 and Et2O, and was dried. Yield: 0.626 mg. The resin, 0.597 gm, was treated with TFA/phenol (95:5) overnight, filtered, and washed with TFA. The combined filtrate and washings were evaporated in vacuo to ca 5 mL. This was dropped into 30 mL of ice cold ether. The peptide was collected by centrifugation, and the pellet was suspended in ether and centrifuged 2× more. The pellet was dried in high vacuum over P2O5 and NaOH overnight to yield 92 mg of a white powder. The residue was purified by Sephadex G-25 chromatography using 0.1 M acetic acid as the eluant to yield 5.3 mg of a white solid. FAB MS calc'd, 598.2; found 598.3.

reactant | threonine | N[C@@H]([C@H](O)C)C(=O)O | C4H9NO3
reactant | t-butyl ether | C(C)(C)(C)OC(C)(C)C | C8H18O
reactant | lysine | N[C@@H](CCCCN)C(=O)O | C6H14N2O2
reactant | arginine | N[C@@H](CCCNC(N)=N)C(=O)O | C6H14N4O2
reactant | Fmoc-Asp-ODmb | 0.87 mmole, 0.44 gm | COC1=CC(=C(C=C1)COC(=O)[C@H](CC(=O)O)NC(=O)OCC2C3=CC=CC=C3C4=CC=CC=C24)OC | C28H27NO8
reactant | DIPCDI | 0.44 mmole, 68 μL | CC(C)N=C=NC(C)C | C7H14N2
reactant | HOBt | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
catalyst | DMAP | 0.3 mmole, 36.6 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | DMF | 0.5 mL | CN(C)C=O | C3H7NO
solvent | DMF CH2Cl2 | 3 mL | CN(C)C=O.C(Cl)Cl
product | Fmoc-aspartic acid | C(=O)(OCC1C2=CC=CC=C2C2=CC=CC=C12)N[C@@H](CC(=O)O)C(=O)O | C19H17NO6
